Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
cardiac catheterization
 
History of Present Illness:
___ with a history prostate CA s/p radiation, hypothyroidism, 
and GERD who presents with chest pain. It has been intermittent 
over the last weeks. Patient had first presented to ___ on 
___ and was ruled out for MI.  
He followed-up with his PCP and ___ GI workup was initiated. He 
had  
recurrent chest pain today when he woke up that lasted 2 hours. 
He deszcribed it more as epigastric that was associated with 
belching. It radiated up his back adn through his neck. He 
denied any associated SOB, dizziness, or lightheadedness.  
He went to the ___ emergency department he was found to 
have an elevated troponin (0.48) with EKG changes ekg inverted 
ts in avl, v1-v3, biphasic in v4-v5. Patient was given Aspirin 
324mg, Heparin and Nitroglycerin and transfer to ___ for 
further evaluation. He is currently chest pain free.  
In the ED intial vitals were: Pain 0 T99.1 P90 BP130/77 RR18 O2 
sat 97%. Labs were notable for Trop 0.48, Cr 1.2 (at baseline).  

Patient was given: Heparin and morphine  
Vitals on transfer: Pain 0 T98.4 P76 BP145/76 RR20 O2 sat 99% RA 
 
On the floor, patient verified above story and is currently 
chest pain free.  
 

 
Past Medical History:
Hypothyroidism  
Prostate CA s/p radiation therapy  
 
 
Social History:
___
Family History:
Father died at ___ due to CHF, he had strokes in his ___ and 
___.  
Mother died at ___ due to CHF. No early CAD or sudden cardiac  
death.  
 
 
Physical Exam:
admission labs
VS: T=98.1 BP=136/84 HR=102 RR=18 O2 sat= 97RA  
General: Awake, alert, NAD  
HEENT: MMM, no oropharyngeal lesions  
Neck: Supple, no adenopathy, no thyromegaly, JVP not elevated  
CV: Normal S1S2, no MRG  
Lungs: clear to auscultation b/l  
Abdomen: Normal BS, soft, Non-tender, non-distended  
GU: deferred  
Ext: Warm, well-perfused, no edema. L distal index finger 
amputatated after snow-blowing accident  
Neuro: Non-focal  
Skin: No rashes  

discharge exam 

 
Pertinent Results:
admission labs: 
___ 07:00PM BLOOD WBC-11.0 RBC-5.22 Hgb-15.8 Hct-47.1 
MCV-90 MCH-30.2 MCHC-33.5 RDW-13.0 Plt ___
___ 07:00PM BLOOD Neuts-57.3 ___ Monos-6.0 Eos-1.3 
Baso-0.6
___ 07:00PM BLOOD ___ PTT-89.8* ___
___ 07:00PM BLOOD Glucose-97 UreaN-13 Creat-1.2 Na-141 
K-4.9 Cl-103 HCO3-24 AnGap-19

other pertinent labs: 
___ 07:00PM BLOOD cTropnT-0.51*
___ 12:40AM BLOOD cTropnT-0.62*
___ 06:15AM BLOOD cTropnT-0.88*

Catheterization report: 
Assessment & Recommendations
 1. Two vessel coronary artery disease with high grade stenoses
of the proximal-mid LAD and diffuse atherosclerosis and slow 
flow
consistent with diffuse microvascular dysfunction.
 2. Mild-moderate left ventricular diastolic heart failure.
 3. Successful deployment of a single drug-eluting stent in the
proximal-mid LAD after verbal assurances by the patient that he
would be willing and able to take dual anti-platelet therapy for
a year. The D1 and S1 were jailed, with plaque shift into the S1
and exacerbation of the pre-existing origin stenosis in S1.
 4. Routine post-TR Band care.
 5. Cycle CK-MB and platelets, especially in light of
post-procedure abdominal discomfort, worsened anterior T wave
inversions, and plaque shifting into the S1 (with possible 
occult
distal embolization of a lipid-rich plaque).
 6. 12-lead ECG in the AM.
 7. D/C bivaluridin.
 8. ASA 325 mg daily for at least 1 month, then uninterrupted 81
mg daily for life.
 9. Clopidogrel 75 mg daily for at least ___ year to prevent stent
thrombosis.
10. Outpatient cardiac rehabilitation referral.
11. Reinforce secondary preventative measures against CAD,
NSTEMI, and hypertension (subject to compliance by the patient).

discharge labs: 
___ 06:16AM BLOOD WBC-8.2 RBC-4.58* Hgb-13.9* Hct-41.0 
MCV-90 MCH-30.3 MCHC-33.9 RDW-12.9 Plt ___
___ 06:16AM BLOOD Glucose-107* UreaN-16 Creat-1.1 Na-136 
K-4.1 Cl-102 HCO3-25 AnGap-13
___ 06:16AM BLOOD Calcium-8.3* Phos-3.2 Mg-2.3
___ 06:16AM BLOOD CK-MB-13* cTropnT-0.86*

 
Brief Hospital Course:
# NSTEMI: Troponin trend at ___ 0.51 (0.48 at 
OSH)-->0.62-->0.88-->0.86. Chest pain free during entire 
hospitalization. Continued medical management with heparin drip, 
aspirin, metoprolol, and lisinopril until catheterization. 
Patient adamantly refused statin therapy because he had read 
that "they can kill you in a minute". Tried to educate patient 
multiple times on the importance of statins, patient decided 
that he will discuss with his PCP further about statins. 
Underwent cath, which showed 80% stenosis in ramus, 70-80% 
stenosis in proximal-mid LAD, with placement of 1 long 
drug-eluting stent in LAD. Patient discharged on the following 
cardiac regimen: aspirin 81, plavix 75, metoprolol succ 25, 
atorvastatin 80 (pt will make final decision on statin as 
outpatient).  

#Hypothyrodism: continued home levothyroxine. 

Transitional Issues: 
- Continue educating patient about the importance of statins in 
CAD.
- Will need outpatient echo to evaluate cardiac function.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 50 mcg PO DAILY 

 
Discharge Medications:
1. Levothyroxine Sodium 50 mcg PO DAILY 
2. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
3. Nitroglycerin SL 0.3 mg SL PRN chest pain 
RX *nitroglycerin [Nitrostat] 0.3 mg 1 tablet sublingually every 
5 minutes as needed Disp #*30 Tablet Refills:*0
4. Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
5. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet extended release 24 
hr(s) by mouth daily Disp #*30 Tablet Refills:*0
6. Pravastatin 80 mg PO DAILY 
This is the cholesterol medication recommended for you heart 
disease, please discuss with your PCP.  
RX *pravastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: NSTEMI 
Secondary diagnosis: Chronic hypothyroidism 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 
It was a pleasure taking care of you at ___ 
___. You were admitted with chest pain, and your 
tests show that you were having a heart attack. You underwent a 
cardiac catheterization and received 1 drug-eluting stent in one 
of your coronary arteries. You were discharged on the following 
new medications to decrease your risk of future heart attacks: 
aspirin, plavix (you will need to take this for at least ___ 
year), metoprolol, and sublingual nitroglycerin. You were also 
given a prescription for pravastatin, a cholesterol-lowering 
medication recommended for patients with known coronary artery 
disease.  
- Continue to follow up with your primary care doctor to 
decrease your cardiac risk factors for future heart attacks. 
Also discuss whether you want to take the pravastatin. 
- You will need to follow up with a cardiologist given your 
newly diagnosed coronary artery disease, please see appointment 
details below. 

___ MD's
 
Followup Instructions:
___